US09163021B2
3-iodo-1-isopropyl-1H-pyrrolo[3,2-c]pyridine
To a suspension of 3-iodo-1H-pyrrolo[3,2-c]pyridine (Preparation 47, 82 g, 340 mmol) and cesium carbonate (164 g, 504 mmol) in DMF (650 mL) was added 2-iodopropane (30.7 mL, 307 mmol) dropwise over 25 minutes at room temperature and the reaction was stirred for 6 hours. The reaction was poured into water (500 mL), stirred for 10 minutes and extracted into EtOAc (4×350 mL). The organic layers were combined, washed with brine, passed through a phase separation cartridge and concentrated in vacuo. The residue was purified using silica gel column chromatography eluting with DCM followed by 50% EtOAc in DCM to afford the title compound as a pale brown gum (93 g, 61%).

reactant | 3-iodo-1H-pyrrolo[3,2-c]pyridine | 340 mmol, 82 g | IC1=CNC2=C1C=NC=C2 | C7H5IN2
reactant | cesium carbonate | 504 mmol, 164 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | 2-iodopropane | 307 mmol, 30.7 mL | IC(C)C | C3H7I
reactant | water | 500 mL | O | H2O
solvent | DMF | 650 mL | CN(C)C=O | C3H7NO
product | 3-iodo-1-isopropyl-1H-pyrrolo[3,2-c]pyridine | 93 g, 61% | IC1=CN(C2=C1C=NC=C2)C(C)C | C10H11IN2
